US08420828B2
1-(1H-Benzo[d]imidazol-6-yl)-5-(4-(cyclohexyloxy)phenyl)-3-methoxy-4-methyl-1H-pyrrol-2(5H)-one
The compound was synthesized starting from KOH (15 eq in water), diazald (8 eq), ethylene glycol/Et2O (1/2 v/v, 30 ml), 1-(1H-Benzo[d]imidazol-6-yl)-5-(4-(cyclohexyloxy)phenyl)-3-hydroxy-4-methyl-1H-pyrrol-2(5H)-one (0.500 g, 1.24 mmol, 1 eq) and MeOH (10 ml); yield: 0.050 g (10%); MS m/z: 418.2 [M+H]+; 1H-NMR: (400 MHz, CDCl3) δ: 7.90 (s, 1H), 7.78 (s, 1H), 7.5 (s, 1H), 7.26 (s, 2H), 7.06 (d, 2H), 6.76 (d, 2H), 5.24 (s, 1H), 4.07 (d, 4H), 1.80 (d, 2H), 1.76 (d, 5H), 1.45 (d, 3H), 1.30 (d, 4H); HPLC (METHOD [A]): rt 15.23 min (100%)

reactant | KOH | 15 eq | [OH-].[K+]
reactant | diazald | 8 eq | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | ethylene glycol Et2O | 30 ml | C(CO)O.CCOCC
reactant | 1-(1H-Benzo[d]imidazol-6-yl)-5-(4-(cyclohexyloxy)phenyl)-3-hydroxy-4-methyl-1H-pyrrol-2(5H)-one | 1.24 mmol, 0.500 g, 1 eq | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=CC=C(C=C2)OC2CCCCC2)C)O)=O | C24H25N3O3
solvent | MeOH | 10 ml | CO | CH4O
product | 1-(1H-Benzo[d]imidazol-6-yl)-5-(4-(cyclohexyloxy)phenyl)-3-methoxy-4-methyl-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=CC=C(C=C2)OC2CCCCC2)C)OC)=O | C25H27N3O3
